US04694080
4-Cyclopentancarbonyloxy-2-ethyl-3-(2-phenyl-1,3,4-oxadiazol-5-yl)-1,2-benzothiazine 1,1-dioxide
A mixture of 2-ethyl-4-hydroxy-3-(2-phenyl-1,3,4-oxadiazol-5-yl)-1,2-benzothiazine 1,1-dioxide (0.739 g), cyclopentanecarboxylic acid (0.34 g) and N,N'-dicyclohexylcarbodiimide (1.55 g) in pyridine (2.5 ml) was stirred at room temperature for 16 hours. Water (7 ml) was added to the reaction mixture and the solid thus formed was filtered and washed with water. The solid was then dissolved in chloroform and filtered. The filtrate was concentrated. The residue was recrystallized from toluene to give the title compound (0.776 g). M.P.: 194°-196° C.

reactant | 2-ethyl-4-hydroxy-3-(2-phenyl-1,3,4-oxadiazol-5-yl)-1,2-benzothiazine 1,1-dioxide | 0.739 g | C(C)N1S(C2=C(C(=C1C1=NN=C(O1)C1=CC=CC=C1)O)C=CC=C2)(=O)=O | C18H15N3O4S
reactant | cyclopentanecarboxylic acid | 0.34 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | N,N'-dicyclohexylcarbodiimide | 1.55 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Water | 7 ml | O | H2O
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | 4-Cyclopentancarbonyloxy-2-ethyl-3-(2-phenyl-1,3,4-oxadiazol-5-yl)-1,2-benzothiazine 1,1-dioxide | 0.776 g | C1(CCCC1)C(=O)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)CC)C2=NN=C(O2)C2=CC=CC=C2 | C24H23N3O5S
